US05977105
(b) (±)-α-(2-Naphthylthiomethyl)-3-pyridinepropanol
Sodium hydride (60% dispersion in oil, 0.05 g) was added to a solution of 2-thionaphthol (0.174 g) in dry dimethylformamide (3 ml). A solution of (±)-3-(2-oxiranylethyl)pyridine (0.15 g) in tetrahydrofuran (1 ml) was added and the reaction mixture stirred for three hours at ambient temperature. The solution was poured into water which was extracted with ethyl acetate. The organic extracts were separated, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The product was purified by column chromatography on silica eluting with ethyl acetate to give the title compound as a white solid (0.15 g).

reactant | Sodium hydride | 0.05 g | [H-].[Na+]
reactant | 2-thionaphthol | 0.174 g | C1=CC=C2C=C(C=CC2=C1)S | C10H8S
reactant | (±)-3-(2-oxiranylethyl)pyridine | 0.15 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
reactant | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (±)-α-(2-Naphthylthiomethyl)-3-pyridinepropanol | 0.15 g | C1=C(C=CC2=CC=CC=C12)SCC(CCC=1C=NC=CC1)O | C19H19NOS
